US03960868
A solution of 11 g of 3-carboethoxy-4-hydroxy- 6-cyclohexyl-quinoline in 300 ml of ethanol and 50 ml of 10 N sodium hydroxide solution is heated for 3 hours on a water bath. It is then diluted with 200 ml of water and the clear solution is acidified with concentrated hydrochloric acid, whereupon a solid precipitate results. This is filtered off and recrystallised from ethanol or dimethylformamide, and gives 4-hydroxy-6-cyclohexyl-quinoline-3-carboxylic acid in the form of pale yellow crystals of melting point 263°-265°C.

reactant | 3-carboethoxy-4-hydroxy- 6-cyclohexyl-quinoline | 11 g | C(=O)(OCC)C=1C=NC2=CC=C(C=C2C1O)C1CCCCC1 | C18H21NO3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 10 N, 50 ml | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 4-hydroxy-6-cyclohexyl-quinoline-3-carboxylic acid | OC1=C(C=NC2=CC=C(C=C12)C1CCCCC1)C(=O)O | C16H17NO3
